US08492568B2
Step 2: 6-Methoxyspiro[chromene-2,1′-cyclobutan]-4(3H)-one
To the stirred solution of 6-hydroxyspiro[chromene-2,1′-cyclobutan]-4-(3H)-one (8 g, 39.215 mmol) in dry dimethylformamide (150 ml), potassium carbonate (16.28 g, 117.64 mmol) and methyl iodide (4.88 ml, 78.431 mmol) were added and the reaction mixture was stirred at room temperature under nitrogen atmosphere for 2 h. After the completion of the reaction, the reaction mixture was diluted with water (100 ml), extracted with ethyl acetate (3×300 ml), the combined organic layers washed with water (3×100 ml), brine (60 ml), dried (Na2SO4), filtered and concentrated to yield 8.13 g of the product; 1H NMR (300 MHz, CDCl3) δ 1.67-1.77 (m, 1H), 1.85-1.97 (m, 1H), 2.11-2.18 (m, 2H), 2.23-2.34 (m, 2H), 2.87 (s, 2H), 3.77 (s, 3H), 6.88 (d, J=9.6 Hz, 1H), 7.06 (d, J=8.7 Hz, 1H), 7.25 (s, 1H).

reactant | 6-hydroxyspiro[chromene-2,1′-cyclobutan]-4-(3H)-one | 39.215 mmol, 8 g | OC=1C=C2C(CC3(CCC3)OC2=CC1)=O | C12H12O3
reactant | potassium carbonate | 117.64 mmol, 16.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 78.431 mmol, 4.88 ml | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 6-Methoxyspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 8.13 g | COC=1C=C2C(CC3(CCC3)OC2=CC1)=O | C13H14O3
